US08293768B2
Synthesis of 1-(4-methyl-5-(3-methyl-1H-pyrazol-5-yl)thiazol-2-yl)-3-(4-(piperidine-1-carbonyl)benzyl)imidazolidin-2-one
To a solution of 1-(5-acetyl-4-methylthiazol-2-yl)-3-(4-(piperidine-1-carbonyl)benzyl)imidazolidin-2-one (0.43 g, 1.00 mmol) in N,N-dimethylacetamide (5 mL) was added N,N-dimethylacetamide dimethyl acetal (0.5 mL, 3.40 mmol). The reaction mixture was heated for 24 hours at 110° C., and hydrazine monohydrate (0.30 mL, 6.18 mmol) was added. The reaction mixture was heated for another 10 minutes at 110° C., then cooled to ambient temperature, diluted with ethyl acetate and washed with water. The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography to afford the title compound as a colorless solid in 46% yield (0.25 g): mp 182-183° C. (ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.38-7.30 (m, 4H), 6.16 (s, 1H), 4.49 (s, 2H), 4.10-4.04 (m, 2H), 3.68 (br s, 2H), 3.46-3.31 (m, 4H), 2.46 (s, 3H), 2.32 (s, 3H), 1.56-1.49 (m, 6H); 13C NMR (75 MHz, CDCl3) δ 169.9, 156.6, 155.8, 143.6, 137.3, 136.1, 128.2, 127.4, 104.2, 48.7, 47.7, 41.8, 26.5, 25.6, 24.5, 21.1, 16.5; MS (ES+) m/z 465.2 (M+1).

reactant | 1-(5-acetyl-4-methylthiazol-2-yl)-3-(4-(piperidine-1-carbonyl)benzyl)imidazolidin-2-one | 1.00 mmol, 0.43 g | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)C(=O)N1CCCCC1)=O)C | C22H26N4O3S
reactant | N,N-dimethylacetamide dimethyl acetal | 3.40 mmol, 0.5 mL | COC(C)(N(C)C)OC | C6H15NO2
reactant | hydrazine monohydrate | 6.18 mmol, 0.30 mL | O.NN
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-methyl-5-(3-methyl-1H-pyrazol-5-yl)thiazol-2-yl)-3-(4-(piperidine-1-carbonyl)benzyl)imidazolidin-2-one | 46% yield | CC=1N=C(SC1C1=CC(=NN1)C)N1C(N(CC1)CC1=CC=C(C=C1)C(=O)N1CCCCC1)=O | C24H28N6O2S
